US08067590B2
7-[2-(4-Benzyloxy-2-oxo-2H-pyridin-1-yl)-ethyl]-3,4-dihydro-1H-isoquinoline-2-carboxylic Acid Tert-Butyl Ester
To 450 mg (2.24 mmol) 4-benzyloxy-1H-pyridin-2-one in 2.2 mL DMF at 0° C. is added 1.46 g (4.47 mmol) cesium carbonate and after 15 min 1.00 g (2.32 mmol) 7-[2-(toluene-4-sulfonyloxy)ethyl]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (preparation 7). The reaction mixture is stirred overnight at RT, filtered and is directly transferred to reverse HPLC chromatography (Zorbax stable bond, C18; water (0.15% formic acid)/acetonitrile 95:5 to 5:95).

reactant | 4-benzyloxy-1H-pyridin-2-one | 2.24 mmol, 450 mg | C(C1=CC=CC=C1)OC1=CC(NC=C1)=O | C12H11NO2
reactant | cesium carbonate | 4.47 mmol, 1.46 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 7-[2-(toluene-4-sulfonyloxy)ethyl]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 2.32 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C23H29NO5S
solvent | DMF | 2.2 mL | CN(C)C=O | C3H7NO
product | 7-[2-(4-Benzyloxy-2-oxo-2H-pyridin-1-yl)-ethyl]-3,4-dihydro-1H-isoquinoline-2-carboxylic Acid Tert-Butyl Ester | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)CCN1C(C=C(C=C1)OCC1=CC=CC=C1)=O | C28H32N2O4
